US07138425B2
c) 2-[4-Ethoxy-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(5-amino-2-ethoxyphenyl)-5-phenylbenzoxazole (157 mg, 0.44 mmol) and 1,2,4-benzenetricarboxylic anhydride (84 mg, 0.44 mmol) the title compound was obtained (133 mg, 60%). 1H NMR (DMSO) δ 8.50(dd, 1H), 8.40(s, 1H), 8.25(d, 1H), 8.17(m, 2H), 7.93(d, 1H), 7.80(m, 4H), 7.50(m, 4H), 4.41(q, 2H), 1.52(t, 3H). MS 505 m/z (M+H)+.

reactant | 2-(5-amino-2-ethoxyphenyl)-5-phenylbenzoxazole | 0.44 mmol, 157 mg | NC=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OCC | C21H18N2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.44 mmol, 84 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Ethoxy-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | C(C)OC1=C(C=C(C=C1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C30H20N2O6
